US04198527
A mixture of 3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylic acid (0.95 g, 3,95 mmol), thionyl chloride (0.342 ml, 4.74 mmol) and DMF (several drops) in 50 ml benzene is stirred at RT for 2 days. The solvent and excess thionyl chloride are evaporated under reduced pressure. The resulting acid chloride is dissolved in 50 ml benzene, and 0.79 g m-phenoxybenzyl alcohol (3.95 mmol) and 0.482 g 4-dimethylaminopyridine (3.95 mmol) are added. The mixture is left at 25° for 18 hr and then heated under reflux for 2 hr. The mixture is then poured into water and extracted with ether. The organic phase is washed with dilute HCl, sat.NaHC3, water and brine, dried and concentrated under vacuum. The crude product is purified by preparative TLC developing with 20% ethyl acetate/hexane to yield m-phenoxybenzyl 3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylate, MS m/e 422 [M+].

reactant | 3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylic acid | 3,95 mmol, 0.95 g | ClC1=CC=C(OC2C(C2C(=O)O)(C)C)C=C1 | C12H13ClO3
reactant | thionyl chloride | 4.74 mmol, 0.342 ml | S(=O)(Cl)Cl | Cl2OS
reactant | m-phenoxybenzyl alcohol | 3.95 mmol, 0.79 g | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
reactant | water | O | H2O
catalyst | DMF | several drops | CN(C)C=O | C3H7NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | 4-dimethylaminopyridine | 3.95 mmol, 0.482 g | CN(C1=CC=NC=C1)C | C7H10N2
product | m-phenoxybenzyl 3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylate | ClC1=CC=C(OC2C(C2C(=O)OCC2=CC(=CC=C2)OC2=CC=CC=C2)(C)C)C=C1 | C25H23ClO4
